US04452809
Trans-3-(4-chlorophenoxy)-4-hydroxy-N-methyl-1-pyrrolidinecarboxamide Hemihydrate
A solution of 0.9 g. of 4-(4-chlorophenoxy)-3-pyrrolidinol in 50 ml. of methylene chloride was cooled to 0° C. and 0.24 g. of methyl isocyanate in 5 ml. of methylene chloride was added dropwise over the period of 10 min. Cooling was discontinued and stirring was continued for 1 hr. Solvent was then removed and the residue was crystallized from dimethylsulfoxide-water; m.p. 95 0°-98.5° C.

reactant | 4-(4-chlorophenoxy)-3-pyrrolidinol | ClC1=CC=C(OC2C(CNC2)O)C=C1 | C10H12ClNO2
reactant | methyl isocyanate | CN=C=O | C2H3NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Trans-3-(4-chlorophenoxy)-4-hydroxy-N-methyl-1-pyrrolidinecarboxamide Hemihydrate | O.ClC1=CC=C(O[C@@H]2CN(C[C@H]2O)C(=O)NC)C=C1.ClC1=CC=C(O[C@@H]2CN(C[C@H]2O)C(=O)NC)C=C1 | InChI=1S/2C12H15ClN2O3.H2O/c2*1-14-12(17)15-6-10(16)11(7-15)18-9-4-2-8(13)3-5-9;/h2*2-5,10-11,16H,6-7H2,1H3,(H,14,17);1H2/t2*10-,11-;/m11./s1
